US07622478B2
Thionyl chloride (10 ml) is added to a stirred, cooled to −20° C. propionic acid (50 ml) and at the same temperature 9-(2-hydroxyethylamino)-4-methyl-1-nitroacridine (0.55 g) is added in portions, and the mixture is stirred at room temperature for 20 hours. The reaction mixture is distilled off under reduced pressure, washed several times with 10% aqueous sodium bicarbonate and water, dried under vacuum, and crystallized from absolute methanol-ethanol hydrogen chloride solution to give 9-(2-propionoxyethylamino)-4-methyl-1-nitroacridine hydrochloride with 68% yield, m.p. 228-230° C., anal. C19H19N3O4Cl(C,H,N). 1H NMR (d6DMSO): δ 1.20(t, 3H, H-3″), 2.0(q, 2H, H-2″), 2.8(s, 3H, CH3), 3.9(t, 2H, H-1), 4.0(t, 2H, H-2′), 7.4(t, 1H, H-7), 7.5(d, 1H, J=7.8 Hz, H-3), 7.6(d, 1H, J=8.3 Hz, H-6), 8.0(t, 1H, H-5), 8.4(m, 1H, H-8).

reactant | Thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 9-(2-hydroxyethylamino)-4-methyl-1-nitroacridine | 0.55 g | OCCNC=1C2=CC=CC=C2N=C2C(=CC=C(C12)[N+](=O)[O-])C | C16H15N3O3
reactant | propionic acid | 50 ml | C(CC)(=O)O | C3H6O2
product | 9-(2-propionoxyethylamino)-4-methyl-1-nitroacridine hydrochloride | 68% yield | Cl.C(CC)(=O)OCCNC=1C2=CC=CC=C2N=C2C(=CC=C(C12)[N+](=O)[O-])C | InChI=1S/C19H19N3O4.ClH/c1-3-16(23)26-11-10-20-19-13-6-4-5-7-14(13)21-18-12(2)8-9-15(17(18)19)22(24)25;/h4-9H,3,10-11H2,1-2H3,(H,20,21);1H
